US09388189B2
b) (S)-2-(1-Aminoethyl)-5-((2-((2-(dimethylamino)ethyl)amino)phenyl)thio)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-tert-Butyl (1-(5-((2-((2-(dimethylamino)ethyl)amino)phenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate (432 mg, 0.79 mmol) was treated with a solution of hydrochloric acid in dioxane (4M, 3.9 mL, 15.76 mmol) according to the method described in Preparation 1 to obtain 267 mg (90% purity, 63% yield) of the title compound as a hydrochloride salt that was used in the following step without further purification.

reactant | (S)-tert-Butyl (1-(5-((2-((2-(dimethylamino)ethyl)amino)phenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 0.79 mmol, 432 mg | CN(CCNC1=C(C=CC=C1)SC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O)C | C29H36N6O3S
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 15.76 mmol, 4M, 3.9 mL | O1CCOCC1 | C4H8O2
product | (S)-2-(1-Aminoethyl)-5-((2-((2-(dimethylamino)ethyl)amino)phenyl)thio)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 63% yield | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)SC2=C(C=CC=C2)NCCN(C)C | C24H28N6OS
